US04814344
3-(Dimethylamino)-1-(1,5-dimethyl-1H-indol-3-yl)-1-propanone hydrochloride
A mixture of 1-(1,5-dimethyl-1H-indol-3-yl)-1-ethanone (1.4 g), paraformaldehyde (0.7 g) and dimethylamine hydrochloride (1.8 g) in ethanol (60 ml) was heated at reflux for 24 h, cooled, and the solvent was evaporated in vacuo. The residue was partitioned between sodium carbonate (2N; 75 ml) and ethyl acetate (2×75 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil, which was purified by FCC eluting with System A to give the free base of the title compound as an oil (0.8 g). A sample of the free base (0.1 g) was dissolved in hot ethanol (10 ml) acidified with ethanolic hydrogen chloride, and diluted with hot ethyl acetate (40 ml). On cooling, the salt crystallised out and was filtered off, and dried in vacuo to give the title compound (0.1 g), m.p. 225°-228°.

reactant | 1-(1,5-dimethyl-1H-indol-3-yl)-1-ethanone | 1.4 g | CN1C=C(C2=CC(=CC=C12)C)C(C)=O | C12H13NO
reactant | paraformaldehyde | 0.7 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 1.8 g | Cl.CNC
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(Dimethylamino)-1-(1,5-dimethyl-1H-indol-3-yl)-1-propanone hydrochloride | 0.8 g | Cl.CN(CCC(=O)C1=CN(C2=CC=C(C=C12)C)C)C | InChI=1S/C15H20N2O.ClH/c1-11-5-6-14-12(9-11)13(10-17(14)4)15(18)7-8-16(2)3;/h5-6,9-10H,7-8H2,1-4H3;1H
